2173-01-15 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ON as addon for trach/PEG by IP
   -Lasix 40 mg IV for volume overload
 INVASIVE VENTILATION - START [**2173-1-14**] 02:27 PM
 ULTRASOUND - At [**2173-1-14**] 04:26 PM
   abdominal US
 PICC LINE - START [**2173-1-14**] 05:17 PM
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2173-1-14**] 08:00 PM
   Ampicillin - [**2173-1-14**] 10:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2173-1-14**] 06:00 PM
   Furosemide (Lasix) - [**2173-1-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-15**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.5
C (95.9
   HR: 69 (60 - 92) bpm
   BP: 140/89(58) {102/52(58) - 150/107(117)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    462 mL
                                                                     98 mL
   PO:
             TF:
   IVF:
                                                                    462 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                  1,225 mL
   Urine:
                                                                  1,325 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                 -1,127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 41
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/46/203/30/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 677
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, No(t) Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   263 K/uL
   10.4 g/dL
   106
   1.2 mg/dL
   30 mEq/L
   3.5 mEq/L
   42 mg/dL
   111 mEq/L
   148 mEq/L
   30.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2173-1-14**]  02:39 PM
                             [**2173-1-14**]  03:11 PM
                             [**2173-1-14**]  05:00 PM
                             [**2173-1-14**]  08:00 PM
                             [**2173-1-15**]  04:00 AM
   WBC
   8.1
   Hct
   30.4
   Plt
   263
   Cr
   1.2
   TCO2
   30
   Glucose
   102
   120
   116
   106
   Other labs: PT / PTT / INR:14.9/27.1/1.3, ALT / AST:58/50, Alk Phos / T
   Bili:244/1.2, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Albumin:2.9 g/dL, LDH:396 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 72 y/o M hx PAF, CAD s/p CABG, R hip
   replacement c/b joint enterococcus infection, sepsis, prolongues
   intubation transferred to [**Hospital1 5**] for trach and peg
   # Respiratory failure: Most likely multifactorial with volume overload
   and deconditioning, body habitus. Low suspicion for pulmonary infection
   at this point given lack of fever, leukocytosis, infiltrate on CXR.
   - trach and peg today via IP
   - diuresis (1L today) with 40 IV lasix
   - continue vent, currently on AC, will attempt PS trial this afternoon
   -begin fentanyl patch and Clonipine 0.5 mg TID after procedure to
   attempt to wean, may consider haldol as needed for agitation thereafter
   - routine vent care
   .
   # Septic joint/bacteremia:
   - repeat blood cx
   - antibiotic pak in place
   - consult ortho re: joint (and d/w family re: furture care of hip
   joint)-specifically inquire about timeline for anticoagulation
   .
   # Endocarditis
   - continue ampicillin/gentamycin duration likely 6 weeks
   - repeat echo in AM
   - renally dose gent
   - daily EKG given aortic valve involvement, follow up on EKG from today
   .
   # Elevated LFTs/alk phos: Per OSH, had dilated CBD and possible stones.
   On exam, he does not appear to have fever, abd tenderness or signs of
   cholangitis. I suspect perhaps choledocholithiasis or intrahepatic
   cholestasis from severe illness
   - f/u read RUQ U/S-read pending
   - trend LFTs daily
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure
   - rate control with BB
   .
   # HTN:
   - continue BB
   .
   # CAD:
   - continue ASA, BB, statin, ? why not on ACEI
   .
   # DM: takes metformin at home
   - ISS for now as not sure from OSH records how much standing he was
   requiring
   .
   # Gout:
   - continue allopurinol
   .
   # Diabetes:
   - continue lantus and ISS
   .
   #FEN-NPO, will attempt to correct free water deficit when able to
   tolerate PO
   Access: PICC
   Prophy: Heparin SQ
   Code-full
   Dispo-ICU
   Communication with wife and daughter
 CHOLECYSTITIS, CALCULOUS
 RESPIRATORY FAILURE, CHRONIC
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 BACTEREMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-01-16 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2173-1-15**] 09:30 AM
 PEG INSERTION - At [**2173-1-15**] 02:09 PM
   [**2173-1-15**]
   - Trach & G-tube placed, G active 3pm [**1-16**] for feeding & correcting
   Free Water deficit
   - Echo concerning for PE, CTA pending (prepped with Bicarb/Mucomyst)
   - Fentanyl Patch & Klonipin started with goal to wean gtt [**1-16**]: On long
   term methadone as best outpatient pain regimen
   - Pressure support trial today
   - Ab U/S: No significant results
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2173-1-15**] 08:41 PM
   Gentamicin - [**2173-1-15**] 08:41 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-1-15**] 08:11 AM
   Furosemide (Lasix) - [**2173-1-15**] 07:31 PM
   Famotidine (Pepcid) - [**2173-1-15**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-16**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 97 (68 - 98) bpm
   BP: 131/67(81) {92/47(60) - 159/96(112)} mmHg
   RR: 15 (0 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,735 mL
                                                                    205 mL
   PO:
             TF:
   IVF:
                                                                  1,735 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                  1,050 mL
   Urine:
                                                                  3,140 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,405 mL
                                                                   -845 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 515 (515 - 582) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 92
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.46/42/61/29/5
   Ve: 8 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Overweight / Obese, trach
ed, on PSV, opens eyes,
   but does not follow commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest:  Coarse breath sounds BL, rhochi BL, no wheezes or
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, BL externally rotated Les, anasarca,
   scrotal edema
   Skin:  Warm
   Neurologic: opens eyes to command, but does not follow other commands
   Follows simple commands,
   Labs / Radiology
   209 K/uL
   10.2 g/dL
   89 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.1 mEq/L
   35 mg/dL
   112 mEq/L
   150 mEq/L
   31.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2173-1-14**]  02:39 PM
                             [**2173-1-14**]  03:11 PM
                             [**2173-1-14**]  05:00 PM
                             [**2173-1-14**]  08:00 PM
                             [**2173-1-15**]  04:00 AM
                             [**2173-1-15**]  05:05 AM
                             [**2173-1-15**]  06:56 PM
                             [**2173-1-15**]  10:30 PM
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
   WBC
   8.1
   4.2
   4.7
   Hct
   30.4
   30.7
   31.0
   Plt
   263
   204
   209
   Cr
   1.2
   1.1
   1.1
   1.2
   TCO2
   30
   31
   31
   Glucose
   102
   120
   116
   106
   81
   113
   89
   Other labs: PT / PTT / INR:16.1/32.3/1.4, ALT / AST:53/48, Alk Phos / T
   Bili:220/1.0, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:396 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 72 y/o M hx PAF, CAD s/p CABG, R hip replacement c/b joint
   enterococcus infection, sepsis, prolonged intubation transferred to
   [**Hospital1 5**] for trach and peg placement by IP
   # Respiratory failure: Most likely multifactorial with volume overload,
   systolic failure, and deconditioning, body habitus. Low suspicion for
   pulmonary infection at this point given lack of fever, leukocytosis,
   infiltrate on CXR.
   - Trach placed yesterday by IP, currently tolerating PSV, consider
   trach mask trial today if more alert
   - diuresis (goal 2L negative) with 40 IV lasix, will repeat later today
   if decreased UOP
   - continue vent, currently on PSV
   - began fentanyl patch and Clonipine 0.5 mg TID yesterday, will attempt
   to transition off midazolam and versed, switch clonipine to ativan for
   agitation
   - routine vent care
   - TTE showed evidence of right heart strain, CTA did not show evidence
   of PE.
   .
   # Septic hip joint/bacteremia:
   - Continue ampicillin and gentamicin, gent level low yesterday, changed
   dosing, will check level tomorrow AM
   - repeat blood cx daily
   - antibiotic pak in place
   - Ortho on board
   .
   # Endocarditis
   - continue ampicillin/gentamycin duration likely 6 weeks
   - TTE was done yesterday, no vegetations seen, consider TEE to rule out
   persistent vegetations if worsens clinically
   - continue to renally dose gent
   - daily EKG given aortic valve involvement
   .
   # Hypernatremia:  Large free water deficit of 3L
   - Attempt to correct with D5W and free water boluses once start tube
   feeds
   - Monitor [**Hospital1 **] lytes
   .
   # Elevated LFTs/alk phos:  Likely secondary to cholelithiasis, however
   no evidence of cholecystitis per RUQ US
   - trend LFTs daily
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure, INR now
   1.4, will ask IP when to restart coumadin
   - rate control with BB
   .
   # HTN:
   - continue BB
   .
   # CAD:
   - continue ASA, BB, statin,
   - unclear why not on [**Name (NI) 3930**], but renal insufficiency with Crn at 1.2,
   hold off on starting for now
   .
   # DM: takes metformin at home, holding here
   - Cover with ISS for hyperglycemia
   .
   # Gout:
   - continue allopurinol
   .
   #FEN- Will start tube feeds with free water flushes at 3pm today,
   nutrition consult
   Access: PICC
   Prophy: Heparin SQ
   Code-full
   Dispo-ICU
   Communication with wife and daughter
 CHOLECYSTITIS, CALCULOUS
 RESPIRATORY FAILURE, CHRONIC
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 BACTEREMIA
   ICU Care
   Nutrition:  NPO, tube feeds to start at 3pm today
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   20 Gauge - [**2173-1-15**] 06:28 PM
   Prophylaxis:
   DVT:  heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2173-01-16 10:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo man with AFIB, CAD, h/o cabbage, s/p long hospital stay for
   artificial hip infection, respiratory failure, s/p T+G.  Echo yesterday
   with RV dysfunction, so got CTA.  Still on continuous sedation, started
   on fentanyl patch.
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2173-1-15**] 09:30 AM
 PEG INSERTION - At [**2173-1-15**] 02:09 PM
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   Unknown;
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2173-1-15**] 08:41 PM
   Ampicillin - [**2173-1-16**] 10:17 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-1-15**] 07:31 PM
   Famotidine (Pepcid) - [**2173-1-16**] 08:21 AM
   Other medications:
   SSI
   fentanyl patch
   klonopin
   allopurinol
   lopressor
   asa
   hep s/q
   colace
   chlorhex
   pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-16**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 105 (74 - 105) bpm
   BP: 147/95(108) {92/47(60) - 163/104(118)} mmHg
   RR: 15 (0 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,060 mL
                                                                    488 mL
   PO:
             TF:
   IVF:
                                                                  2,060 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                  1,530 mL
   Urine:
                                                                  3,140 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,080 mL
                                                                 -1,042 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 884 (515 - 884) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 92
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.46/42/61/29/5
   Ve: 5.2 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Normal, only opens
   eyes to voice, but not aware of surroundings
   Labs / Radiology
   10.2 g/dL
   209 K/uL
   89 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.1 mEq/L
   35 mg/dL
   112 mEq/L
   150 mEq/L
   31.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2173-1-14**]  02:39 PM
                             [**2173-1-14**]  03:11 PM
                             [**2173-1-14**]  05:00 PM
                             [**2173-1-14**]  08:00 PM
                             [**2173-1-15**]  04:00 AM
                             [**2173-1-15**]  05:05 AM
                             [**2173-1-15**]  06:56 PM
                             [**2173-1-15**]  10:30 PM
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
   WBC
   8.1
   4.2
   4.7
   Hct
   30.4
   30.7
   31.0
   Plt
   263
   204
   209
   Cr
   1.2
   1.1
   1.1
   1.2
   TCO2
   30
   31
   31
   Glucose
   102
   120
   116
   106
   81
   113
   89
   Other labs: PT / PTT / INR:16.1/32.3/1.4, ALT / AST:53/48, Alk Phos / T
   Bili:220/1.0, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:396 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Imaging: negative for PE
   Assessment and Plan
   Respiratory failure:  Looks good on PSV, continue to wean.
   fluid overload:  continue diuresis as is very fluid overloaded
   sedation:  can stop versed.  Ativan for breakthrough.  Confusion likely
   due to delirium/sedation/critical illness
   Septic right hip:  s/p removal,  on amp/gent for enterococcal
   bacteremia
   RV dysfunction:  likely with chronic pulm HTN with obesity vs. distolic
   heart failure
   CAD:  on ASA, beta blocker.
   hypernatremia:  likely related to diuresis, replete free water
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   20 Gauge - [**2173-1-15**] 06:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2173-01-17 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Able to discontinue fentanyl and versed, on fentanyl patch only,
   ativan only as needed for anxiety
   - Diuresed well with 40mg of lasix once
   - Contact[**Name (NI) **] [**Name2 (NI) 2120**] [**Hospital **] hospital at ([**Telephone/Fax (1) 4372**].  Only positive
   cultures were rare enterococcus in the tissue and wound cultures from
   the right hip.  Never sent blood cultures.
   - Hypernatremia improved slightly with D5W 1L and free water flushes
   - Switched to [**Telephone/Fax (1) 4377**] overnight given prolonged times of apnea
   - Repeated Lasix 40mg IV at 11:00pm
   - Gave fentanyl IV PRN for pain during movement, d/c in AM
   - Replaced Mag
 BLOOD CULTURED - At [**2173-1-16**] 12:29 PM
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   worsening anxie
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2173-1-16**] 11:56 PM
   Ampicillin - [**2173-1-17**] 03:44 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2173-1-16**] 01:00 PM
   Coumadin (Warfarin) - [**2173-1-16**] 04:00 PM
   Famotidine (Pepcid) - [**2173-1-16**] 07:40 PM
   Heparin Sodium (Prophylaxis) - [**2173-1-16**] 11:56 PM
   Fentanyl - [**2173-1-16**] 11:56 PM
   Furosemide (Lasix) - [**2173-1-17**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-17**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 94 (91 - 109) bpm
   BP: 141/90(101) {103/61(70) - 173/104(118)} mmHg
   RR: 13 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,329 mL
                                                                  1,136 mL
   PO:
             TF:
                                                                    102 mL
                                                                    199 mL
   IVF:
                                                                  1,727 mL
                                                                    627 mL
   Blood products:
   Total out:
                                                                  4,645 mL
                                                                  2,010 mL
   Urine:
                                                                  4,640 mL
                                                                  2,005 mL
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,316 mL
                                                                   -874 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: [**Year (4 digits) 4377**]/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 555 (511 - 884) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 86
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, trach
ed, on PSV, opens eyes,
   but does not follow commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest:  Coarse breath sounds BL, rhochi BL, no wheezes or
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, BL externally rotated Les, anasarca,
   scrotal edema, right medial thigh firm and ecchymotic, does not track
   behind thigh
   Skin:  Warm
   Neurologic: opens eyes to command, but does not follow other commands
   Follows simple commands,
   Labs / Radiology
   232 K/uL
   10.0 g/dL
   131 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.6 mEq/L
   29 mg/dL
   107 mEq/L
   148 mEq/L
   29.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2173-1-14**]  05:00 PM
                             [**2173-1-14**]  08:00 PM
                             [**2173-1-15**]  04:00 AM
                             [**2173-1-15**]  05:05 AM
                             [**2173-1-15**]  06:56 PM
                             [**2173-1-15**]  10:30 PM
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
                             [**2173-1-16**]  03:46 PM
                             [**2173-1-17**]  01:59 AM
   WBC
   4.2
   4.7
   7.6
   Hct
   30.7
   31.0
   29.8
   Plt
   [**Telephone/Fax (3) 4373**]
   Cr
   1.1
   1.1
   1.2
   1.2
   1.3
   TCO2
   31
   31
   Glucose
   120
   116
   106
   81
   113
   89
   115
   131
   Other labs: PT / PTT / INR:15.8/31.9/1.4, ALT / AST:39/32, Alk Phos / T
   Bili:211/1.0, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:396 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 72 y/o M hx PAF, CAD s/p CABG, R hip replacement c/b joint
   enterococcus infection, sepsis, prolonged intubation transferred to
   [**Hospital1 5**] for trach and peg placement by IP
   # Respiratory failure: Most likely multifactorial with volume overload,
   systolic failure, and deconditioning, body habitus. Low suspicion for
   pulmonary infection at this point given lack of fever, leukocytosis,
   infiltrate on CXR.
   - Trach placed by IP, consider trach mask trial today if more alert
   - diuresis (goal 2L negative) with 40 IV lasix, will repeat later today
   if decreased UOP
   - continue vent, currently on [**Last Name (LF) 4377**], [**First Name3 (LF) 124**] decrease PS to 8 from 10
   - began fentanyl patch and Clonipine 0.5 mg TID yesterday, will attempt
   to transition off midazolam and versed, switch clonipine to ativan for
   agitation, prn fentanyl for movement, will cut down fentanyl patch dose
   by [**12-18**] today
   - routine vent care
   - TTE showed evidence of right heart strain, CTA did not show evidence
   of PE.
   .
   # Hand pain-patient grimaces when manipulating right hand, per daughter
   patient
broke hand at OSH and was in cast
.  The patient was not
   transferred with cast on.
   -obtain hand X rays
   .place lidocaine patches for pain control
   .
   # Septic hip joint/bacteremia:
   - Continue ampicillin and gentamicin, gent level low yesterday, changed
   dosing, will check level tomorrow AM
   - repeat blood cx daily
   - antibiotic pak in place
   - Ortho on board-will eval possible hematoma today, rec. holding on
   imaging for now
   .
   # Endocarditis
   - continue ampicillin duration likely 6 weeks, stop gentamicin today as
   has completed 10 day course
   - TTE was done yesterday, no vegetations seen, consider TEE to rule out
   persistent vegetations if worsens clinically
   - daily EKG given aortic valve involvement
   .
   # Hypernatremia:  Large free water deficit of 3L
   - Attempt to correct with 1 L D5W and free water boluses with tube
   feeds 250 mL Q 4 hours
   - Monitor [**Hospital1 **] lytes
   .
   # Elevated LFTs/alk phos:  Likely secondary to cholelithiasis, however
   no evidence of cholecystitis per RUQ US
   - trend LFTs daily
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure, INR now
   1.4, restarted yesterday, continue dosing
   - rate control with BB
   .
   # HTN:
   - continue BB
   .
   # CAD:
   - continue ASA, BB, statin,
   - unclear why not on [**Name (NI) 3930**], but renal insufficiency with Crn at 1.2,
   hold off on starting for now
   .
   # DM: takes metformin at home, holding here
   - Cover with ISS for hyperglycemia
   .
   # Gout:
   - continue allopurinol
   .
   #FEN-Tube feeds with free water flushes , nutrition consult
   Access: PICC
   Prophy: Heparin SQ
   Code-full
   Dispo-ICU, contact CM for Rehab planning
   Communication with wife and daughter
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 CHOLECYSTITIS, CALCULOUS
 RESPIRATORY FAILURE, CHRONIC
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 BACTEREMIA
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-1-16**] 04:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   20 Gauge - [**2173-1-15**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-01-17 10:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo man with hip infection, sepsis, respiratory failure.  s/p T+G
   Has been weaned off continuous sedation.
   24 Hour Events:
 BLOOD CULTURED - At [**2173-1-16**] 12:29 PM
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   worsening anxie
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2173-1-16**] 11:56 PM
   Ampicillin - [**2173-1-17**] 03:44 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2173-1-16**] 01:00 PM
   Coumadin (Warfarin) - [**2173-1-16**] 04:00 PM
   Fentanyl - [**2173-1-16**] 11:56 PM
   Furosemide (Lasix) - [**2173-1-17**] 12:02 AM
   Famotidine (Pepcid) - [**2173-1-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-1-17**] 08:00 AM
   Other medications:
   SSI
   fentanyl patch
   allopurinol
   asa
   hep s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-17**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 93 (89 - 109) bpm
   BP: 153/87(103) {103/61(70) - 173/103(115)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,329 mL
                                                                  1,719 mL
   PO:
             TF:
                                                                    102 mL
                                                                    351 mL
   IVF:
                                                                  1,727 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                  4,645 mL
                                                                  2,390 mL
   Urine:
                                                                  4,640 mL
                                                                  2,385 mL
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,316 mL
                                                                   -671 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 700 (511 - 877) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 86
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, fluctuating consciousness,
   occasionally follows commands
   Labs / Radiology
   10.0 g/dL
   232 K/uL
   131 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.6 mEq/L
   29 mg/dL
   107 mEq/L
   148 mEq/L
   29.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2173-1-14**]  05:00 PM
                             [**2173-1-14**]  08:00 PM
                             [**2173-1-15**]  04:00 AM
                             [**2173-1-15**]  05:05 AM
                             [**2173-1-15**]  06:56 PM
                             [**2173-1-15**]  10:30 PM
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
                             [**2173-1-16**]  03:46 PM
                             [**2173-1-17**]  01:59 AM
   WBC
   4.2
   4.7
   7.6
   Hct
   30.7
   31.0
   29.8
   Plt
   [**Telephone/Fax (3) 4373**]
   Cr
   1.1
   1.1
   1.2
   1.2
   1.3
   TCO2
   31
   31
   Glucose
   120
   116
   106
   81
   113
   89
   115
   131
   Other labs: PT / PTT / INR:15.8/31.9/1.4, ALT / AST:39/32, Alk Phos / T
   Bili:211/1.0, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:396 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure:  Continue to drop PSV.  Is having periods of apnea
   - may improve with lower PSV.
   Fluid overload:  continue diuresis.
   hypernatremia:  Improved - continue free water.
   delirium:  Decrease fentanyl patch to 25mg.  Likely still confused due
   to med effect, but follows some commands
   enterococcal bacteremia:  can stop gent and continue ampicillin only
   acute renal failure:  increased creatinine, hold gent.
   DM II
   gout:  lidoderm patch to hand
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-1-16**] 04:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   20 Gauge - [**2173-1-15**] 06:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-01-18 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Per family had broken hand at OSH and was in cast-not tranferred in
   cast.  Right 5th fracture-destruction of distal and middle phalanx,
   plastics consulted-recs pending
   -D/c gentamicin as has been on for 10 days
   -Hematoma on Right medial thigh evaluated by ortho-NTD, HCT stable
   -PM lytes-hypernatremia improved on D5W and free water bolus, stopped
   D5W and continued free water boluses
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   worsening anxie
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2173-1-16**] 11:56 PM
   Ampicillin - [**2173-1-18**] 03:31 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2173-1-17**] 01:41 PM
   Coumadin (Warfarin) - [**2173-1-17**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2173-1-17**] 04:00 PM
   Famotidine (Pepcid) - [**2173-1-17**] 07:40 PM
   Lorazepam (Ativan) - [**2173-1-18**] 12:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-18**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 101 (89 - 109) bpm
   BP: 164/99(116) {102/51(63) - 164/109(119)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,187 mL
                                                                    927 mL
   PO:
             TF:
                                                                  1,099 mL
                                                                    239 mL
   IVF:
                                                                  1,968 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  5,165 mL
                                                                    520 mL
   Urine:
                                                                  5,160 mL
                                                                    520 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -978 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 462 (410 - 700) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 117
   PIP: 14 cmH2O
   Plateau: 12 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, trach
ed, on PSV, opens eyes,
   but does not follow commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest:  Coarse breath sounds BL, rhochi BL, no wheezes or
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, BL externally rotated Les, anasarca,
   scrotal edema, right medial thigh firm and ecchymotic, does not track
   behind thigh
   Skin:  Warm
   Neurologic: does not open eyes to command, grimaces to touch
   Labs / Radiology
   197 K/uL
   9.9 g/dL
   169 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.7 mEq/L
   26 mg/dL
   104 mEq/L
   142 mEq/L
   29.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2173-1-15**]  05:05 AM
                             [**2173-1-15**]  06:56 PM
                             [**2173-1-15**]  10:30 PM
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
                             [**2173-1-16**]  03:46 PM
                             [**2173-1-17**]  01:59 AM
                             [**2173-1-17**]  01:01 PM
                             [**2173-1-17**]  08:28 PM
                             [**2173-1-18**]  02:38 AM
   WBC
   4.2
   4.7
   7.6
   8.0
   Hct
   30.7
   31.0
   29.8
   30.2
   29.7
   Plt
   [**Telephone/Fax (3) 4385**]97
   Cr
   1.1
   1.1
   1.2
   1.2
   1.3
   1.3
   1.3
   TCO2
   31
   31
   Glucose
   81
   113
   89
   115
   131
   150
   169
   Other labs: PT / PTT / INR:17.4/37.5/1.6, ALT / AST:39/32, Alk Phos / T
   Bili:211/1.0, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:396 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 72 y/o M hx PAF, CAD s/p CABG, R hip replacement c/b joint
   enterococcus infection, sepsis, prolonged intubation transferred to
   [**Hospital1 5**] for trach and peg placement by IP
   # Respiratory failure: Most likely multifactorial with volume overload,
   systolic failure, and deconditioning, body habitus. Low suspicion for
   pulmonary infection at this point given lack of fever, leukocytosis,
   infiltrate on CXR.
   - Trach placed by IP, trach mask trial tried but failed, still on PS
   [**4-20**] (down from PEEP of 8) earlier.
   - tried to hold sedation as much as possible, currently on low dose
   fentanyl patch after being on heavy sedation for week + at OSH, likely
   cause of AMS
   - TTE showed evidence of right heart strain, CTA did not show evidence
   of PE.
   .
   # Hand pain-patient grimaces when manipulating right hand, per daughter
   patient
broke hand at OSH and was in cast
.  The patient was not
   transferred with cast on.
   -xrays positive for distal and middle phalanx fracture
   - plastics consulted, in splint now, will follow up as outpatient, not
   a surgical fix
   .place lidocaine patches for pain control
   .
   # Septic R hip joint/bacteremia:
   - on ampicillin (will need 6 week course of endocarditis), gent stopped
   yesterday as he completed 10 d course
   - antibiotic pak in place
   - repeat blood cx daily
   - Ortho on board-think he likely has hematoma still in his thigh, but
   is improving, have signed off, will need new hip replacement in the
   future when more clinically stable.  For now, started PT without
   passive range of motion of R hip
   .
   # Endocarditis
   - continue ampicillin duration likely 6 weeks, stop gentamicin today as
   has completed 10 day course
   - TTE was done yesterday, no vegetations seen, consider TEE to rule out
   persistent vegetations if worsens clinically
   - daily EKG given aortic valve involvement
   .
   # Hypertension / sinus tachycardia
 both up today, grimacing more,
   likely secondary to pain
   -          started methadone, was on 20 mg tid dose at OSH, can add
   PRNs as needed
   -          consider increasing fentanyl patch dose if needed.
   -          Continuing BB at same dose
   .
   # Hypernatremia:  resolved
   - Corrected with D5W boluses, now just continuing tube feeds with 150
   mL free water flushes Q 4 hours
   .
   # Elevated LFTs/alk phos:  Likely secondary to cholelithiasis, however
   no evidence of cholecystitis per RUQ US
   - trend LFTs daily
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure, INR now
   1.6, restarted [**1-17**], continue dosing
   - rate control with BB
   ..
   # CAD:
   - continue ASA, BB, statin,
   - unclear why not on [**Name (NI) 3930**], but renal insufficiency with Crn at 1.2,
   hold off on starting for now
   .
   # DM: takes metformin at home, holding here
   - Cover with ISS for hyperglycemia
   .
   # Gout:
   - continue allopurinol
   .
   #FEN-Tube feeds with free water flushes , nutrition consult
   #Access: PICC
   #Prophy: Heparin SQ
   #Code-full
   #Dispo-ICU, contact CM for Rehab planning
   #Communication with wife and daughter
 discussion with daughter today
   about rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   20 Gauge - [**2173-1-15**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Addendum to Plan Section:
   # Fluid overload
 likely from fluid resuscitation after surgeries and
   during infection treatment at OSH.  Has been responding moderately to
   IV lasix pushes.
   - Starting lasix gtt today, titrating with goal of 1-2L negative
   pending BP toleration
   - Has new decreased EF per recent echo, likely due to acute stress on
   heart.  Will plan on repeat echo in approximately a week, checking
   TSH/T4 tomorrow.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2623**] [**Last Name (NamePattern1) 4399**], MD
   on:[**2173-1-18**] 16:57 ------

2173-01-19 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-18**] Events:
   - failed trial on TM, RR 36-40, RSBI 130s
   - if MS does not improve in [**12-18**] wks will need EEG, LP, CT, MRI
   - methadone started (will d/c fentanyl once stable)
   - neg 1L on lasix gtt
   - blood culture (from PICC) with gram+ rods, would like to estabilsh
   PIV access and pull PICC for cx - IV team failed
 BLOOD CULTURED - At [**2173-1-18**] 03:00 PM
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   worsening anxie
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2173-1-16**] 11:56 PM
   Ampicillin - [**2173-1-18**] 09:38 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-1-18**] 08:00 AM
   Furosemide (Lasix) - [**2173-1-18**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-1-18**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-19**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 101 (75 - 117) bpm
   BP: 150/91(107) {112/70(81) - 171/113(118)} mmHg
   RR: 25 (15 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,739 mL
                                                                    677 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    421 mL
   IVF:
                                                                    909 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  4,610 mL
                                                                    620 mL
   Urine:
                                                                  4,610 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -871 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 615 (375 - 615) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 49
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, trach
ed, on PSV, opens eyes,
   but does not follow commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest:  Coarse breath sounds BL, rhochi BL, no wheezes or
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, BL externally rotated Les, anasarca,
   scrotal edema, right medial thigh firm and ecchymotic, does not track
   behind thigh
   Skin:  Warm
   Neurologic: does not open eyes to command, grimaces to touch
   Labs / Radiology
   194 K/uL
   10.0 g/dL
   174 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.5 mEq/L
   30 mg/dL
   101 mEq/L
   139 mEq/L
   30.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2173-1-15**]  10:30 PM
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
                             [**2173-1-16**]  03:46 PM
                             [**2173-1-17**]  01:59 AM
                             [**2173-1-17**]  01:01 PM
                             [**2173-1-17**]  08:28 PM
                             [**2173-1-18**]  02:38 AM
                             [**2173-1-18**]  02:40 PM
                             [**2173-1-19**]  04:22 AM
   WBC
   4.7
   7.6
   8.0
   11.6
   Hct
   31.0
   29.8
   30.2
   29.7
   30.2
   Plt
   [**Telephone/Fax (3) 4410**]94
   Cr
   1.2
   1.2
   1.3
   1.3
   1.3
   1.3
   1.3
   TCO2
   31
   31
   Glucose
   89
   115
   131
   150
   169
   154
   174
   Other labs: PT / PTT / INR:18.0/35.4/1.6, ALT / AST:39/32, Alk Phos / T
   Bili:211/1.0, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:396 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 72 y/o M hx PAF, CAD s/p CABG, R hip replacement c/b joint
   enterococcus infection, sepsis, prolonged intubation transferred to
   [**Hospital1 5**] for trach and peg placement by IP
   # Respiratory failure: Most likely multifactorial with volume overload,
   systolic failure, and deconditioning, body habitus. Low suspicion for
   pulmonary infection at this point given lack of fever, leukocytosis,
   infiltrate on CXR.
   - Trach placed by IP, trach mask trial tried but failed, still on PS
   [**4-20**] (down from PEEP of 8) earlier.
   - tried to hold sedation as much as possible, currently on low dose
   fentanyl patch after being on heavy sedation for week + at OSH, likely
   cause of AMS
   - TTE showed evidence of right heart strain, CTA did not show evidence
   of PE.
   .
   # Hand pain-patient grimaces when manipulating right hand, per daughter
   patient
broke hand at OSH and was in cast
.  The patient was not
   transferred with cast on.
   -xrays positive for distal and middle phalanx fracture
   - plastics consulted, in splint now, will follow up as outpatient, not
   a surgical fix
   .place lidocaine patches for pain control
   .
   # Septic R hip joint/bacteremia:
   - on ampicillin (will need 6 week course of endocarditis), gent stopped
   yesterday as he completed 10 d course
   - antibiotic pak in place
   - repeat blood cx daily
   - Ortho on board-think he likely has hematoma still in his thigh, but
   is improving, have signed off, will need new hip replacement in the
   future when more clinically stable.  For now, started PT without
   passive range of motion of R hip
   .
   # Endocarditis
   - continue ampicillin duration likely 6 weeks, stop gentamicin today as
   has completed 10 day course
   - TTE was done yesterday, no vegetations seen, consider TEE to rule out
   persistent vegetations if worsens clinically
   - daily EKG given aortic valve involvement
   .
   # Hypertension / sinus tachycardia
 both up today, grimacing more,
   likely secondary to pain
   -          started methadone, was on 20 mg tid dose at OSH, can add
   PRNs as needed
   -          consider increasing fentanyl patch dose if needed.
   -          Continuing BB at same dose
   .
   # Hypernatremia:  resolved
   - Corrected with D5W boluses, now just continuing tube feeds with 150
   mL free water flushes Q 4 hours
   .
   # Elevated LFTs/alk phos:  Likely secondary to cholelithiasis, however
   no evidence of cholecystitis per RUQ US
   - trend LFTs daily
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure, INR now
   1.6, restarted [**1-17**], continue dosing
   - rate control with BB
   ..
   # CAD:
   - continue ASA, BB, statin,
   - unclear why not on [**Name (NI) 3930**], but renal insufficiency with Crn at 1.2,
   hold off on starting for now
   .
   # DM: takes metformin at home, holding here
   - Cover with ISS for hyperglycemia
   .
   # Gout:
   - continue allopurinol
   .
   #FEN-Tube feeds with free water flushes , nutrition consult
   #Access: PICC
   #Prophy: Heparin SQ
   #Code-full
   #Dispo-ICU, contact CM for Rehab planning
   #Communication with wife and daughter
 discussion with daughter today
   about rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-1-19**] 03:23 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-01-20 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient was kept on trach mask successfully
   - started Prednisone 20mg PO daily x5 days for gout flare
   - fentanyl discontinued
   - fluid balance +200cc despite lasix 5cc/hr drip
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   worsening anxie
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2173-1-20**] 04:27 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2173-1-19**] 03:42 PM
   Famotidine (Pepcid) - [**2173-1-19**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2173-1-20**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-20**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.2
C (97.1
   HR: 83 (64 - 110) bpm
   BP: 154/91(106) {118/65(78) - 154/103(109)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  3,218 mL
                                                                  1,029 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    423 mL
   IVF:
                                                                    860 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                  1,050 mL
   Urine:
                                                                  3,055 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    163 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (440 - 500) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, trach mask, opens eyes, but
   does not follow commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest:  Coarse breath sounds BL, diminished BS bilateral
   bases, no wheezes or crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, BL externally rotated Les, anasarca,
   scrotal edema, right medial thigh firm and ecchymotic, does not track
   behind thigh
   Skin:  Warm
   Neurologic: opens eyes to voice, grimaces to touch
   Labs / Radiology
   158 K/uL
   9.4 g/dL
   188 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.1 mEq/L
   36 mg/dL
   101 mEq/L
   143 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2173-1-16**]  04:03 AM
                             [**2173-1-16**]  04:10 AM
                             [**2173-1-16**]  03:46 PM
                             [**2173-1-17**]  01:59 AM
                             [**2173-1-17**]  01:01 PM
                             [**2173-1-17**]  08:28 PM
                             [**2173-1-18**]  02:38 AM
                             [**2173-1-18**]  02:40 PM
                             [**2173-1-19**]  04:22 AM
                             [**2173-1-20**]  04:20 AM
   WBC
   4.7
   7.6
   8.0
   11.6
   8.6
   Hct
   31.0
   29.8
   30.2
   29.7
   30.2
   28.5
   Plt
   [**Telephone/Fax (3) 4410**]94
   158
   Cr
   1.2
   1.2
   1.3
   1.3
   1.3
   1.3
   1.3
   1.4
   TCO2
   31
   Glucose
   89
   115
   131
   150
   169
   154
   174
   188
   Other labs: PT / PTT / INR:19.5/40.0/1.8, ALT / AST:19/17, Alk Phos / T
   Bili:151/0.9, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:325 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 72 y/o M hx PAF, CAD s/p CABG, R hip replacement c/b joint
   enterococcus infection, sepsis, prolonged intubation transferred to
   [**Hospital1 5**] for trach and peg placement by IP
   # Respiratory failure: Most likely multifactorial with volume overload,
   systolic failure, and deconditioning, body habitus. Low suspicion for
   pulmonary infection at this point given lack of fever, leukocytosis,
   infiltrate on CXR.
   - Trach placed by IP, trach mask trial tried yesterday, will try again
   today, still on PS 5/5 (down from PEEP of 8) earlier
   - tried to hold sedation as much as possible, off fentanyl
   - TTE showed evidence of right heart strain, CTA did not show evidence
   of PE.
   .
   # Endocarditis
   - continue ampicillin duration likely 6 weeks, stop gentamicin today as
   has completed 10 day course
   - TTE was done yesterday, no vegetations seen, consider TEE to rule out
   persistent vegetations if worsens clinically
   - daily EKG given aortic valve involvement
   .
   # Gout
 notable on L wrist
   - on colchicine and allopurinol
   - started on prednisone 20mg PO daily
   .
   # Volume overloaded
   - con
t Lasix drip ( will discuss on rounds tomorrow changing to bolus)
   .
   # R wrist fx- .
   -xrays positive for distal and middle phalanx fracture
   - plastics consulted, in splint now, will follow up as outpatient, not
   a surgical fix
   .place lidocaine patches for pain control
   .
   # Septic R hip joint/bacteremia:
   - on ampicillin (will need 6 week course of endocarditis), gent stopped
   yesterday as he completed 10 d course
   - antibiotic pak in place
   - repeat blood cx daily
   - Ortho on board-think he likely has hematoma still in his thigh, but
   is improving, have signed off, will need new hip replacement in the
   future when more clinically stable.  For now, started PT without
   passive range of motion of R hip
   .
   # Hypertension / sinus tachycardia
 both up today, grimacing more,
   likely secondary to pain
   -          started methadone, 10mg TID PO
   -          Continuing BB at same dose
   .
   # Hypernatremia:  resolved
   - Corrected with D5W boluses, now just continuing tube feeds with 150
   mL free water flushes Q 4 hours
   .
   # Elevated LFTs/alk phos:  Likely secondary to cholelithiasis, however
   no evidence of cholecystitis per RUQ US
   - trend LFTs daily
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure, INR now
   1.6, restarted [**1-17**], continue dosing
   - rate control with BB
   ..
   # CAD:
   - continue ASA, BB, statin,
   - unclear why not on [**Name (NI) 3930**], but renal insufficiency with Crn at 1.2,
   hold off on starting for now
   .
   # DM: takes metformin at home, holding here
   - Cover with ISS for hyperglycemia
   .
   #FEN-Tube feeds with free water flushes , nutrition consult
   #Access: PICC
   #Prophy: Heparin SQ
   #Code-full
   #Dispo-ICU, contact CM for Rehab planning
   #Communication with wife and daughter
 discussion with daughter today
   about rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-1-20**] 03:06 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-01-21 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - more awake and alert
   - continues to do well on trach mask, although has irregular breathing
   pattern with periods of apnea
   - run of VT on telemetry, lytes OK, ekg unchanged from prior
   - at midnight I/Os approx even so gave extra dose PO 60 mg lasix
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   muscle aches;
   Ativan (Oral) (Lorazepam)
   worsening anxie
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2173-1-21**] 04:12 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2173-1-20**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-1-21**] 12:00 AM
   Furosemide (Lasix) - [**2173-1-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-21**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 84 (56 - 92) bpm
   BP: 158/105(119) {114/55(68) - 159/107(119)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  3,376 mL
                                                                    823 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    405 mL
   IVF:
                                                                  1,046 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                  1,360 mL
   Urine:
                                                                  3,620 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -244 mL
                                                                   -537 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   SpO2: 99%
   ABG: ///37/
   Physical Examination
   General Appearance: Overweight / Obese, trach mask, opens eyes, follows
   simple commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest:  Coarse breath sounds BL, diminished BS bilateral
   bases, no wheezes or crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, BL externally rotated Les, anasarca,
   scrotal edema, right medial thigh firm and ecchymotic, does not track
   behind thigh
   Skin:  Warm
   Neurologic: opens eyes to voice, grimaces to touch
   Labs / Radiology
   171 K/uL
   9.1 g/dL
   132 mg/dL
   1.4 mg/dL
   37 mEq/L
   3.4 mEq/L
   42 mg/dL
   97 mEq/L
   141 mEq/L
   28.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2173-1-16**]  03:46 PM
                             [**2173-1-17**]  01:59 AM
                             [**2173-1-17**]  01:01 PM
                             [**2173-1-17**]  08:28 PM
                             [**2173-1-18**]  02:38 AM
                             [**2173-1-18**]  02:40 PM
                             [**2173-1-19**]  04:22 AM
                             [**2173-1-20**]  04:20 AM
                             [**2173-1-20**]  03:17 PM
                             [**2173-1-21**]  03:55 AM
   WBC
   7.6
   8.0
   11.6
   8.6
   8.3
   Hct
   29.8
   30.2
   29.7
   30.2
   28.5
   28.3
   Plt
   232
   197
   194
   158
   171
   Cr
   1.2
   1.3
   1.3
   1.3
   1.3
   1.3
   1.4
   1.4
   1.4
   Glucose
   115
   131
   150
   169
   154
   174
   188
   155
   132
   Other labs: PT / PTT / INR:25.1/41.6/2.5, ALT / AST:19/17, Alk Phos / T
   Bili:151/0.9, Amylase / Lipase:/37, Differential-Neuts:93.3 %,
   Lymph:3.7 %, Mono:2.3 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:325 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 72 y/o M hx PAF, CAD s/p CABG, R hip replacement c/b joint
   enterococcus infection, sepsis, prolonged intubation transferred to
   [**Hospital1 5**] for trach and peg placement by IP
   # Respiratory failure: Most likely multifactorial with volume overload,
   systolic failure, and deconditioning, body habitus. Low suspicion for
   pulmonary infection at this point given lack of fever, leukocytosis,
   infiltrate on CXR.
   - Tolerated trach mask for the majority of the day yesterday, brief
   periods of apnea (not new)
   - hold sedation as much as possible, off fentanyl, on methadone 10mg
   TID
   - TTE showed evidence of right heart strain, CTA did not show evidence
   of PE.
   .
   # Endocarditis
   - continue ampicillin duration 6 weeks (started on [**12-29**])
   - no vegetations on TTE, would consider TEE if condition worsens
   .
   # Gout
 notable on L wrist
   - on colchicine, allopurinol, prednisone 20mg PO daily
   .
   # Volume overloaded
   - net neutral yesterday, increase to Lasix IV QID
   .
   # R wrist fx- .
   - xrays positive for distal and middle phalanx fracture
   -plastics consulted, in splint now, will follow up as outpatient
   - place lidocaine patches for pain control
   .
   # Septic R hip joint/bacteremia:
   - on ampicillin (will need 6 week course)
   - antibiotic pak in place
   - repeat blood cx daily
   - Ortho has signed off, will follow-up with Dr. [**Last Name (STitle) 3878**] as outpatient,
   will need new hip replacement in the future when more clinically
   stable.  For now, started PT without passive range of motion of R hip
   .
   # Hypertension / sinus tachycardia
 both up today, grimacing more,
   likely secondary to pain
   - started methadone, 10mg TID PO
   - Continuing BB at same dose
   .
   # Hypernatremia:  resolved
   - Continuing tube feeds with 150 mL free water flushes Q8 hours
   .
   # Elevated LFTs/alk phos:  Likely secondary to cholelithiasis, however
   no evidence of cholecystitis per RUQ US
   - LFTs improving
   .
   # PAF:
   - had been on coumadin, but held in anticipation of procedure, INR now
   2.5, increased dose to 7.5mg on [**1-20**]
   - rate control with BB
   ..
   # CAD:
   - continue ASA, BB, statin,
   - unclear why not on [**Name (NI) 3930**] on admission, continue to hold given [**Doctor First Name **]
   .
   # DM: takes metformin at home, holding here
   - Cover with ISS for hyperglycemia
   .
   #FEN-Tube feeds with free water flushes
   #Access: PICC
   #Prophy: Heparin SQ, PPI
   #Code-full
   #[**Hospital 4466**] Rehab ([**Hospital1 858**]) at 3:30PM
   #Communication with wife and daughter
 discussion with daughter today
   about rehab
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-1-21**] 01:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-14**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: